US04639264
N-(2-Methoxycarbonylphenyl-sulfonyl)-N'-[4-methoxy-6-(pyridin-2-ylthiomethyl)-pyrimidin-2-yl]-urea (compound No. 2.36)
7.0 g of 2-amino-4-methoxy-6-(pyridin-2-ylthiomethyl)-pyrimidine and 6.8 g of 2-methoxycarbonylphenylsulfonylisocyanate are stirred in 50 ml of abs. acetonitrile for 2 hours at 20°-25° C. The turbid solution is filtered, and the solvent evaporated off in vacuo. The residue is crystallised from dioxane to thus obtain 5.5 g (37% of theory) of N-(2-methoxycarbonylphenyl-sulfonyl)-N'-[4-methoxy-6-(pyridin-2-ylthiomethyl)-pyrimidin-2-yl]-urea, which crystallises with 0.5 mol of dioxane, m.p. 175°-181° C.

reactant | 2-amino-4-methoxy-6-(pyridin-2-ylthiomethyl)-pyrimidine | 7.0 g | NC1=NC(=CC(=N1)OC)CSC1=NC=CC=C1 | C11H12N4OS
reactant | 2-methoxycarbonylphenylsulfonylisocyanate | 6.8 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | dioxane | 0.5 mol | O1CCOCC1 | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-Methoxycarbonylphenyl-sulfonyl)-N'-[4-methoxy-6-(pyridin-2-ylthiomethyl)-pyrimidin-2-yl]-urea | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)CSC1=NC=CC=C1 | C20H19N5O6S2
